US07932271B2
[5-Chloro-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridin-2-yl]acetonitrile
Under an argon atmosphere, trimethylsilylnitrile (0.226 ml, 1.63 mmol) and a tetrahydrofuran solution (1M, 1.63 ml, 1.63 mmol) of tetrabutylammonium fluoride were added sequentially to an acetonitrile (10 ml) solution of 2-bromomethyl-5-chloro-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridine (516 mg, 1.09 mmol) at room temperature. The resulting mixture was stirred for 30 minutes. The reaction mixture was concentrated under reduced pressure. The residue thus obtained was subjected to flash silica gel column chromatography. The fraction obtained from the hexane:ethyl acetate=9:1 eluate was concentrated under reduced pressure to give the title compound (390 mg, 0.93 mmol, 85%) as a brown oil.

reactant | tetrahydrofuran | 1.63 mmol, 1M, 1.63 ml | O1CCCC1 | C4H8O
reactant | tetrabutylammonium fluoride | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | acetonitrile | 10 ml | C(C)#N | C2H3N
reactant | 2-bromomethyl-5-chloro-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridine | 1.09 mmol, 516 mg | BrCC1=NC=C(C(=C1)C(C1=C(C=CC(=C1)F)F)SC1=CC=C(C=C1)Cl)Cl | C19H12BrCl2F2NS
solvent | hexane | CCCCCC | C6H14
product | [5-Chloro-4-[(4-chlorophenylthio)(2,5-difluorophenyl)methyl]pyridin-2-yl]acetonitrile | 0.93 mmol, 390 mg, 85% | ClC=1C(=CC(=NC1)CC#N)C(C1=C(C=CC(=C1)F)F)SC1=CC=C(C=C1)Cl | C20H12Cl2F2N2S
